US05935952
In 25 ml of acetic acid and 50 mg of 5% palladium carbon was suspended 150 mg of 7-[2-(benzyloxycarbonyl)-isoindolin-5-yl]-8-chloro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, and the suspension was stirred at room temperature for two hours under a hydrogen stream. The reaction mixture was filtered and thereafter 2 ml of 6N hydrochloric acid was added to the filtrate obtained, after which the mixture was concentrated under reduced pressure. To the residue obtained were added ethanol, and the crystals formed were collected by filtration. To the crystals obtained were added 0.7 ml of ethanol, 0.7 ml of 1N aqueous sodium hydroxide solution and 0.7 ml of water to dissolve the crystals, and thereafter, dilute acetic acid was added to the solution to adjust the pH to 7. The crystals precipitated were collected by filtration, to obtain 45 mg of colorless, crystalline 8-chloro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-7-(isoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 7-[2-(benzyloxycarbonyl)-isoindolin-5-yl]-8-chloro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 150 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=C(C=C2C1)C1=C(C=C2C(C(=CN(C2=C1Cl)[C@H]1[C@H](C1)F)C(=O)O)=O)F | C29H21ClF2N2O5
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 0.7 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1N, 0.7 ml | [OH-].[Na+]
reactant | water | 0.7 ml | O | H2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 50 mg | [C].[Pd]
product | 8-chloro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-7-(isoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | ClC=1C(=C(C=C2C(C(=CN(C12)[C@H]1[C@H](C1)F)C(=O)O)=O)F)C=1C=C2CNCC2=CC1 | C21H15ClF2N2O3
